US08685980B2
To a solution of 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (30 mg, 0.069 mmol) in 10 mL of dichloromethane is added 1 mL of acetone and NaB(OAc)3H (30 mg, 0.138 mmol). The resulting mixture is stirred at room temperature for 18 h. Following purification by preparative LCMS gave 7-cyclopentyl-2-[5-(4-isopropyl-piperazin-1-yl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (20 mg, 61%). MS (ESI) m/z 477.3 (M+H)+

reactant | 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.069 mmol, 30 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)N1C1CCCC1)C | C23H30N8O
reactant | acetone | 1 mL | CC(=O)C | C3H6O
reactant | NaB(OAc)3H | 0.138 mmol, 30 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 7-cyclopentyl-2-[5-(4-isopropyl-piperazin-1-yl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 20 mg, 61% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCN(CC2)C(C)C)N1C1CCCC1)C | C26H36N8O
